US06503949B1
N-Cyclopropylmethyl-4-nitrophthalimide (6.0 g, 24 mmol) in methanol (200 mL) was added dropwise over 30 min to a solution of sodium dithionite (27.0 g, 156 mmol) and sodium carbonate (13.0 g, 125 mmol) in water (200 mL) while the temperature was maintained at 70° C. The mixture was stirred at 70° C. for an additional 50 min before it was allowed to cool to room temperature. The reaction volume was then reduced to one-third by rotary evaporation. Water (400 mL) was added, and the suspension extracted with ethyl acetate (2×450 mL). The combined organic solutions were dried with anhydrous MgSO4. Solvent was then removed by rotary evaporation to afford 2.52 g (49%) of pure N-cyclopropylmethyl-4-aminophthalimide as a powder.

reactant | N-Cyclopropylmethyl-4-nitrophthalimide | 24 mmol, 6.0 g | C1(CC1)CN1C(C=2C(C1=O)=CC(=CC2)[N+](=O)[O-])=O | C12H10N2O4
reactant | sodium dithionite | 156 mmol, 27.0 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 125 mmol, 13.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
product | N-cyclopropylmethyl-4-aminophthalimide | 2.52 g, 49% | C1(CC1)CN1C(C=2C(C1=O)=CC(=CC2)N)=O | C12H12N2O2
